US04363917
Example 7: 3-Ethylthio-5-nitrophthalic acid N-methylimide
5.02 g (20 mmols) of 3,5-dinitrophthalic acid N-methylimide, 2.73 g (44 mmols) of ethylmercaptan, 8.2 g (100 mmols) of anhydrous sodium acetate and 50 ml of ethyl acetate are kept at 25° C. overnight and then kept under reflux, again overnight. The reaction mixture is evaporated, the residue is taken up in methylene chloride/water, the extracts are washed with saturated NaHCO3 solution, dried over sodium sulfate and evaporated and the residue is chromatographed with methylene chloride over 20 g of silica gel. After recrystallisation from methylene chloride/n-pentane, 2.40 g (45% of theory) of 3-ethylthio-5-nitrophthalic acid N-methylimide, with a melting point of 193°-4° C., are obtained.

reactant | 3,5-dinitrophthalic acid N-methylimide | 20 mmols, 5.02 g | CN=C(C=1C(C(=O)O)=C(C=C(C1)[N+](=O)[O-])[N+](=O)[O-])O | C9H7N3O7
reactant | ethylmercaptan | 44 mmols, 2.73 g | C(C)S | C2H6S
reactant | sodium acetate | 100 mmols, 8.2 g | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-Ethylthio-5-nitrophthalic acid N-methylimide | CN=C(C=1C(C(=O)O)=C(C=C(C1)[N+](=O)[O-])SCC)O | C11H12N2O5S
